US07452961B2
Under an inert atmosphere, 7.5 g of magnesium and a small amount of iodine were charged in 100 ml of dried tetrahydrofuran in a three-necked flask. Using a dropping funnel, 90 g of the above-mentioned 3-(3,7-dimethyloctyloxy)-bromobenzene was dropped over 50 minutes. After completion of dropping, 200 ml of dried tetrahydrofuran was added, and the mixture was stirred while heating for 2 hours under reflux to prepare a Grignard reagent. After completion of heating, the reagent was left to cool to room temperature. Into a three-necked flask other than the above-mentioned flask was charged 38 g of trimethylboric acid and 300 ml of dried tetrahydrofuran, and the flask was cooled in a dry ice/aceton bath. Using a dropping funnel, the above-mentioned Grignard reagent solution was dropped over 35 minutes. After completion of dropping, the reaction solution was heated up to room temperature. The reaction solution was added to dilute sulfuric acid (sulfuric acid 12 ml/water 360 ml) and the mixture was stirred, then, bisected and the portions were extracted with 150 ml of ethyl acetate and 100 ml ethyl acetate, respectively. The organic layers were combined, then, trisected and respective portions were washed with 100 ml of water. The washed organic layers were combined and the solvent was distilled off by an evaporator, then, 100 ml of hexane was added to suspend a solid component and the suspension was filtrated. Further, the filtrated substance was washed with 100 ml of hexane. 63 g of 3-(3,7-dimethyloctyloxy)-phenylboric acid was obtained in the form of while solid. Under an inert atmosphere, into a three-necked flask was charged 60 g of the above-mentioned 3-(3,7-dimethyloctyloxy)-bromobenzene, 250 ml of toluene, 250 ml of water, 62 g of potassium carbonate and 1.2 g of tetrakis(triphenylphosphine)palladium complex. Argon was bubbled through the solution for 20 minutes to remove oxygen, then, 63 g of the above-mentioned 3-(3,7-dimethyloctyloxy)-phenylboric acid was added and the mixture was heated up to 90° C., and stirred for 8 hours while heating at the same temperature. After completion of heating, the mixture was left to cool to room temperature. The toluene layer was separated, then, a colored component was removed by silica gel column chromatography. The solvent was distilled off to obtain 98 g of an oily product. This is referred to as compound G.

reactant | magnesium | 7.5 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-(3,7-dimethyloctyloxy)-bromobenzene | 90 g | CC(CCOC=1C=C(C=CC1)Br)CCCC(C)C | C16H25BrO
reactant | trimethylboric acid | 38 g | COB(OC)OC | C3H9BO3
reactant | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(3,7-dimethyloctyloxy)-phenylboric acid | 63 g | CC(CCOC=1C=C(C=CC1)OB(O)O)CCCC(C)C | C16H27BO4
